US06727264B1
N-(3-{1-[(3R)-3-(3,4-DICHLOROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide (9.53 mg, 0.0250 mmol), 3,4-dichlorophenol (8.20 mg, 0.050 mmol), triphenylphosphine (9.80 mg, 0.0375 mmol) and diethyl azodicarboxylate (5.22 mg, 0.0300 mmol) in THF (1.0 mL) was stirred at room temperature for 3 days. Chromatography using silica preparative TLC plates [2.5% of NH3 (2.0 M in methanol) in CHCl3] gave the desired product (5.20 mg, 39.7% yield) as a thick oil: 1H NMR (CDCl3) δ 7.70-7.63 (m, 2H), 7.55 (m, 1H), 7.47-7.43 (m, 3H), 7.40-7.19 (m, 3H), 7.00-6.50 (m, 2H), 6.69 (dd, 1H, J=2.2, 8.8 Hz), 5.25 (m, 1H), 3.20 (m, 2H), 2.70 (m, 2H), 2.53 (m, 2H), 2.40-2.20 (m, 4H), 2.10-1.80 (m, 4H), 1.25 (d, 6H, J=7.1 Hz); ESMS m/e: 525.4 (M+H)+.

reactant | N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 0.0250 mmol, 9.53 mg | O[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H32N2O2
reactant | 3,4-dichlorophenol | 0.050 mmol, 8.20 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | triphenylphosphine | 0.0375 mmol, 9.80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0300 mmol, 5.22 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | NH3 | 2.0 M | N | H3N
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(3-{1-[(3R)-3-(3,4-DICHLOROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 5.20 mg, 39.7% yield | ClC=1C=C(O[C@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1Cl | C30H34Cl2N2O2
